US07494992B2
Preparation 13: Methyl 8-methyl-8-azabicyclo[3.2.1]oct-3-yl sulfate
To a solution of 8-methyl-8-azabicyclo[3.2.1]octan-3-ol (299 g, 2.12 moles) in dichloromethane (3.5 l) was added triethylamine (445 ml, 3.2 moles) and the reaction mixture was cooled to −40° C. Methanesulfonyl chloride (293 g, 2.55 moles) was added dropwise over 90 min and the reaction mixture was then allowed to warm to room temperature. Water (1 l) was added and the organic extract washed with sodium-hydroxide (0.5M) water and saturated sodium chloride solution. The organic extracts were dried (Na2SO4) and concentrated in vacuo to give a yellow solid (262 g, 56%). The solid was recrystallised from hexane to give a first crop of the title compound as light yellow crystals (126.5 g, 27%), followed by a second crop (76.1 g, 16%).

reactant | 8-methyl-8-azabicyclo[3.2.1]octan-3-ol | 2.12 moles, 299 g | CN1C2CC(CC1CC2)O | C8H15NO
reactant | triethylamine | 3.2 moles, 445 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 2.55 moles, 293 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 1 l | O | H2O
solvent | dichloromethane | 3.5 l | ClCCl | CH2Cl2
product | Methyl 8-methyl-8-azabicyclo[3.2.1]oct-3-yl sulfate | 262 g, 56% | S(=O)(=O)(OC)OC1CC2CCC(C1)N2C | C9H17NO4S
